US04175173
(c) bis(p-(2-Hydroxy-3-butoxypropyl)phenyl)methane
bis(p-Hydroxyphenyl)methane (153 g; 67% pure, containing polynuclear homologues), butyl glycidyl ether (232.5 g), and benzyltrimethylammonium chloride (3.85 g) were stirred and heated slowly to 100°, when a mildly exothermic reaction commenced and the temperature rose to 110°. The mixture was kept at 110° for 41/2 hours, 120° for 1 hour, and 150° for 11/2 hours. The product had an epoxy value of 0.19 equiv./kg.

reactant | bis(p-Hydroxyphenyl)methane | 153 g | OC1=CC=C(C=C1)CC1=CC=C(C=C1)O | C13H12O2
reactant | butyl glycidyl ether | 232.5 g | C(C1CO1)OCCCC | C7H14O2
catalyst | benzyltrimethylammonium chloride | 3.85 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | bis(p-(2-Hydroxy-3-butoxypropyl)phenyl)methane | OC(CC1=CC=C(C=C1)CC1=CC=C(C=C1)CC(COCCCC)O)COCCCC | C27H40O4
